US08389743B2
[3-Hydroxy-3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-morpholin-4-yl-methanone
To a stirring solution of 1-(4-bromo-benzyl)-pyrrolidine (1.6 g, 6.5 mmol) in THF (20 mL) at −78° C. (acetone/dry ice bath) was added slowly down the side of the flask a solution of nBuLi (2.6 mL, 6.5 mmol, 2.5 M THF). After 15 minutes a solution of Intermediate 7, 3-(morpholin-4-ylcarbonyl)cyclobutanone (1.0 g, 5.4 mmol, in 7 mL of THF) precooled to −78° C. was added slowly. After 30 minutes the reaction was quenched cold with 1N HCl (20 mL). This mixture was diluted with EtOAc and then the layers were separated and the organic layer was discarded. The aqueous layer was basified with 1N NaOH and extracted with CHCl3/iPrOH (3:1). The organic layer was dried over MgSO4, filtered and concentrated to give a yellow oil. This material was purified by flash column chromatography using a 40 g ISCO™ column, eluting with a gradient of 3%, 5%, 10%, 20%, 30%/0 MeOH/CHCl3 with 0.1% NH4OH. The product containing fraction were collected and concentrated under reduced pressure to give the title compound (379 mg, 20% yield): Rf=0.3 (30% MeOH/CH2Cl2); LRMS m/z Calcd for C20H28N2O3, 344.4, found, 345 (M+1) APCI; 400 MHz 1H NMR (CDCl3) δ 7.42 (d, J=8.3 Hz, 2H), 7.29 (d, J=8.3 Hz, 2H), 4.58 (brs, 1H), 3.62-3.55 (m, 8H), 3.34-3.32 (m, 2H), 2.87 (dddd, J=8.3, 8.3, 8.3, 8.3 Hz, 1H), 2.77-2.71 (m, 2H), 2.64-2.59 (m, 2H), 2.48-2.45 (m, 4H), 1.75-1.70 (m, 4H); 100 MHz 13C NMR (CDCl3) δ 173.8, 144.4, 137.8, 129.3, 125.3, 72.9, 67.0, 66.9, 60.3, 54.2, 46.0, 42.6, 40.9, 28.1, 23.5.

reactant | 1-(4-bromo-benzyl)-pyrrolidine | 6.5 mmol, 1.6 g | BrC1=CC=C(CN2CCCC2)C=C1 | C11H14BrN
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | nBuLi | 6.5 mmol, 2.5 M, 2.6 mL | [Li]CCCC
reactant | 3-(morpholin-4-ylcarbonyl)cyclobutanone | 5.4 mmol, 7 mL, 1.0 g | N1(CCOCC1)C(=O)C1CC(C1)=O | C9H13NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [3-Hydroxy-3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-morpholin-4-yl-methanone | 379 mg, 20% yield | OC1(CC(C1)C(=O)N1CCOCC1)C1=CC=C(C=C1)CN1CCCC1 | C20H28N2O3
